US05561150
A solution of 1.4 g (7.36 mmol) of 2-hydroxymethylene-5-methoxy-1-indanone, 0.8 g (8.83 mmol) of (RS)-1-hydrazino-2-propanol and 100 mg of p-toluenesulfonic acid in 100 ml of anhydrous toluene was heated on a water separator for 1.5 hours. After concentration in a vacuum, the reaction mixture was purified by column chromatography on silica gel (ethyl acetate/hexane 4:1). 1.74 g (97%) of (RS)-1-(6-methoxy-1,4-dihydro-indeno[2,1-c]-pyrazol-1-yl)-propan-2-ol were obtained as a yellow oil which was used directly in the next reaction.

reactant | 2-hydroxymethylene-5-methoxy-1-indanone | 7.36 mmol, 1.4 g | OC=C1C(C2=CC=C(C=C2C1)OC)=O | C11H10O3
reactant | (RS)-1-hydrazino-2-propanol | 8.83 mmol, 0.8 g | N(N)CC(C)O | C3H10N2O
reactant | water | O | H2O
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | (RS)-1-(6-methoxy-1,4-dihydro-indeno[2,1-c]-pyrazol-1-yl)-propan-2-ol | 1.74 g, 97% | COC=1C=C2C=C3N(N=CC3=C2CC1)CC(C)O | C14H16N2O2
